US05225402
1-(4-Piperidinyl)-3,4-dihydrocarbostyril (500 mg), triethylamine (1.2 ml) and pyrrole-2-carboxylic acid (314 mg) are dissolved in dichloromethane (10 ml) and thereto is added dropwise diethyl cyanophosphate (0.82 ml) under ice cooling. The mixture is stirred with ice cooling for 1 hour and then stirred at room temperature for 2 hours. The mixture is poured into water, extracted with chlorform, dried with sodium carbonate and purified by silica gel column chromatography (solvent; dichloromethane:methanol=20:1). The resultant is recrystallized from n-hexane/diethyl ether to give 1-[1-(2-pyrrolylcarbonyl)-4-piperidinyl]-3,4-dihyrocarbostyril (0.2 g), as white powder, m.p. 161°-162° C. (decomposed).

reactant | 1-(4-Piperidinyl)-3,4-dihydrocarbostyril | 500 mg | N1CCC(CC1)N1C(=O)CCC2=CC=CC=C12 | C14H18N2O
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | pyrrole-2-carboxylic acid | 314 mg | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | diethyl cyanophosphate | 0.82 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-[1-(2-pyrrolylcarbonyl)-4-piperidinyl]-3,4-dihyrocarbostyril | 0.2 g | N1C(=CC=C1)C(=O)N1CCC(CC1)N1C(=O)CCC2=CC=CC=C12 | C19H21N3O2
